US04743610
2-Amino-N-[4-(3-pyridinyl)butyl]benzamide dihydrochloride
A mixture of 3.25 g of isatoic anhydride, 3.0 g of 4-(3-pyridinyl)butylamine and 20 ml of dimethylsulfoxide was allowed to stand overnight at room temperature, then was treated with 40 ml of water, 10 ml of 1N sodium hydroxide and 200 ml of methylene chloride. The organic layer was separated, washed with water, dried over magnesium sulfate and concentrated. The oily residue was mixed with ethanolic hydrogen chloride and concentrated. The residue was triturated with ether to obtain the desired product, mp 220°-223° C.

reactant | isatoic anhydride | 3.25 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 4-(3-pyridinyl)butylamine | 3.0 g | N1=CC(=CC=C1)CCCCN | C9H14N2
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 2-Amino-N-[4-(3-pyridinyl)butyl]benzamide dihydrochloride | Cl.Cl.NC1=C(C(=O)NCCCCC=2C=NC=CC2)C=CC=C1 | InChI=1S/C16H19N3O.2ClH/c17-15-9-2-1-8-14(15)16(20)19-11-4-3-6-13-7-5-10-18-12-13;;/h1-2,5,7-10,12H,3-4,6,11,17H2,(H,19,20);2*1H
